### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): Characterizing `SimpleGraph.IsCycles`

### PR DESCRIPTION
**Pull request by pimotte**
Shows that IsCycles is appropriately named. The core result is `IsCycles.exists_cycle_toSubgraph_verts_eq_connectedComponent_supp`, which shows that for an edge in a nontrivial component a cycle can be constructed that has exactly the edges of the component.

In order to get this some API is included:

- Coercions of walks in graphs that are the result of coerced subgraphs
- NeighborSets of `toSubgraph` for paths
- Supporting results for `IsCycles`
- Some miscellaneous supporting lemma's

This is all in preparation for Tutte's theorem. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

[Thread on Tutte](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Tutte's.20theorem)

[Result in context of the completed proof](https://github.com/pimotte/TutteLean/blob/9f23d8e40d33375419244a2eaee79f3fc8eeba04/TutteLean/Part2.lean#L343)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 1]
```diff
@@ -103,12 +103,53 @@ protected lemma Connected.sup {H K : G.Subgraph}
...
 
-/-! ### Walks as subgraphs -/
+/-! ### Coercion of walks-/
 
 namespace Walk
 
+variable {H : Subgraph G} {u v w : H.verts}
+
+/-- Coerces a walk in a subgraph to the walk in the ambient graph -/
+protected def coe {u v} (p : H.coe.Walk u v) : G.Walk u.val v.val :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:116]: Is that not `p.map someGraphEmbeddingHere`?

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 2]
```diff
@@ -238,6 +279,71 @@ theorem toSubgraph_adj_iff {u v u' v'} (w : G.Walk u v) :
...
+      apply hp.getVert_injOn (by rw [Set.mem_setOf]; omega) (by rw [Set.mem_setOf]; omega)
+      aesop
+    aesop
+  · have : i + 1 = 0 := by
+      apply hp.getVert_injOn (by rw [Set.mem_setOf]; omega) (by rw [Set.mem_setOf]; omega)
+      aesop
+    contradiction
+
+lemma neighborSet_toSubgraph_endpoint {u v} {p : G.Walk u v}
+    (hp : p.IsPath) (hnp : ¬ p.Nil) : p.toSubgraph.neighborSet v = {p.penultimate} := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:302]: Was this not in the previous PR already? Maybe you forgot to merge master?

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 3]
```diff
@@ -238,6 +279,71 @@ theorem toSubgraph_adj_iff {u v u' v'} (w : G.Walk u v) :
...
+    (p.toSubgraph.neighborSet (p.getVert i)).ncard = 2 := by
+  rw [neighborSet_toSubgraph_internal hp h h']
+  have : p.getVert (i - 1) ≠ p.getVert (i + 1) := by
+    intro h
+    have := hp.getVert_injOn (by rw [Set.mem_setOf_eq]; omega) (by rw [Set.mem_setOf_eq]; omega) h
+    omega
+  simp_all
+
+lemma toSubgraph_adj_sndOfNotNil {u v v'} {p : G.Walk u v} (hp : p.IsPath)
+    (hadj : (p.toSubgraph).Adj u v') : p.getVert 1 = v' := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:332]:
```suggestion
    (hadj : p.toSubgraph.Adj u v') : p.getVert 1 = v' := by
```
and everywhere else

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean (hunk 1 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean]: :man_facepalming: (It is in fact `Subgraph.hom`, so that saves a lot of code:D)

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean (hunk 2 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:274]: This is the variant for paths, the last one was for cycles. I'm not sure I overlooked something in combining those, but I don't see a way to combine those.

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean (hunk 3 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean]: I think I got all of them (I didn't realize that they are not needed to match in rintro/rcases, those were most of them:))

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 4]
```diff
@@ -103,8 +103,21 @@ protected lemma Connected.sup {H K : G.Subgraph}
...
+  obtain ⟨v, hv⟩ := hb
+  use v
+  ext w
+  simp only [ConnectedComponent.mem_supp_iff, ConnectedComponent.eq]
+  exact ⟨fun hw ↦ by simpa using (hc ⟨w, hw⟩ ⟨v, hv⟩).map H.hom,
+    fun a ↦ a.symm.mem_verts_subgraph h hv⟩
+
 end Subgraph
 
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:120]:
```suggestion
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 5]
```diff
@@ -103,8 +103,21 @@ protected lemma Connected.sup {H K : G.Subgraph}
   rintro ⟨v, (hv|hv)⟩
   · exact Reachable.map (Subgraph.inclusion (le_sup_left : H ≤ H ⊔ K)) (hH ⟨u, hu⟩ ⟨v, hv⟩)
   · exact Reachable.map (Subgraph.inclusion (le_sup_right : K ≤ H ⊔ K)) (hK ⟨u, hu'⟩ ⟨v, hv⟩)
+
+lemma Connected.exists_connectedComponent_eq {H : Subgraph G}
+    (hc : H.Connected) (hb : H.verts.Nonempty) (h : ∀ v ∈ H.verts, ∀ w, H.Adj v w ↔ G.Adj v w) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:108]: Is this not equivalent to 
```suggestion
    (hc : H.Connected) (hb : H ≠ ⊥) (h : ∀ v ∈ H.verts, ∀ w, H.Adj v w ↔ G.Adj v w) :
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 6]
```diff
@@ -238,6 +251,71 @@ theorem toSubgraph_adj_iff {u v u' v'} (w : G.Walk u v) :
...
+    (h : i ≠ 0) (h' : i < p.length) :
+    p.toSubgraph.neighborSet (p.getVert i) = {p.getVert (i - 1), p.getVert (i + 1)} := by
+  have hadj1 := ((show i - 1 + 1 = i from by omega) ▸
+    p.toSubgraph_adj_getVert (by omega : (i - 1) < p.length)).symm
+  ext v
+  simp_all only [ne_eq, Subgraph.mem_neighborSet, Set.mem_insert_iff, Set.mem_singleton_iff,
+    SimpleGraph.Walk.toSubgraph_adj_iff, Sym2.eq, Sym2.rel_iff', Prod.mk.injEq,
+    Prod.swap_prod_mk]
+  refine ⟨?_, by aesop⟩
+  rintro ⟨i', ⟨hl, _⟩|⟨_, hl⟩⟩ <;>
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:289]:
```suggestion
  rintro ⟨i', ⟨hl, _⟩ | ⟨_, hl⟩⟩ <;>
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 7]
```diff
@@ -238,6 +251,71 @@ theorem toSubgraph_adj_iff {u v u' v'} (w : G.Walk u v) :
...
+lemma toSubgraph_adj_sndOfNotNil {u v v'} {p : G.Walk u v} (hp : p.IsPath)
+    (hadj : p.toSubgraph.Adj u v') : p.snd = v' := by
+  have ⟨i, hi⟩ := p.toSubgraph_adj_iff.mp hadj
+  simp only [Sym2.eq, Sym2.rel_iff', Prod.mk.injEq, Prod.swap_prod_mk] at hi
+  rcases hi.1 with ⟨hl1, rfl⟩|⟨hr1, hr2⟩
+  · have : i = 0 := by
+      apply hp.getVert_injOn (by rw [Set.mem_setOf]; omega) (by rw [Set.mem_setOf]; omega)
+      rw [p.getVert_zero, hl1]
+    simp [this]
+  · have : (i + 1) = 0 := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:312]:
```suggestion
  · have : i + 1 = 0 := by
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 8]
```diff
@@ -5,6 +5,7 @@ Authors: Alena Gusakov, Arthur Paulino, Kyle Miller, Pim Otte
 -/
 import Mathlib.Combinatorics.SimpleGraph.DegreeSum
 import Mathlib.Combinatorics.SimpleGraph.Connectivity.WalkCounting
+import Mathlib.Combinatorics.SimpleGraph.Connectivity.Subgraph
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:8]:
```suggestion
import Mathlib.Combinatorics.SimpleGraph.Connectivity.Subgraph
import Mathlib.Combinatorics.SimpleGraph.Connectivity.WalkCounting
import Mathlib.Combinatorics.SimpleGraph.DegreeSum
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 9]
```diff
@@ -339,6 +340,16 @@ lemma IsCycles.other_adj_of_adj (h : G.IsCycles) (hadj : G.Adj v w) :
   obtain ⟨w', hww'⟩ := (G.neighborSet v).exists_ne_of_one_lt_ncard (by omega) w
   exact ⟨w', ⟨hww'.2.symm, hww'.1⟩⟩
 
+lemma IsCycles.unique_other_adj_of_adj (h : G.IsCycles) (hadj : G.Adj v w) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:343]:
```suggestion
lemma IsCycles.existsUnique_ne_adj (h : G.IsCycles) (hadj : G.Adj v w) :
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 10]
```diff
@@ -356,6 +367,102 @@ lemma Subgraph.IsPerfectMatching.symmDiff_spanningCoe_IsCycles
...
+  · aesop
+  have e : G.neighborSet (p.getVert n) ≃ p.toSubgraph.neighborSet (p.getVert n) := by
+    refine @Classical.ofNonempty _ ?_
+    rw [← Cardinal.eq, ← Set.cast_ncard (Set.toFinite _), ← Set.cast_ncard (Set.toFinite _),
+        hp.ncard_neighborSet_toSubgraph_internal_eq_two (by omega) (by omega),
+        hcyc (Set.nonempty_of_mem hadj.symm)]
+  rw [Subgraph.adj_comm, Subgraph.adj_iff_of_neighborSet_equiv e (Set.toFinite _).fintype v]
+  exact hadj.symm
+
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:386]:
```suggestion
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 11]
```diff
@@ -356,6 +367,102 @@ lemma Subgraph.IsPerfectMatching.symmDiff_spanningCoe_IsCycles
...
+lemma IsCycles.sDiff_spanningCoe_toSubgraph_reachable [Fintype V] [DecidableEq V] {v w : V}
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:387]:
```suggestion
lemma IsCycles.reachable_sdiff_toSubgraph_spanningCoe [Fintype V] [DecidableEq V] {v w : V}
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 12]
```diff
@@ -869,6 +869,14 @@ lemma adj_penultimate {p : G.Walk v w} (hp : ¬ p.Nil) :
   rw [nil_iff_length_eq] at hp
   convert adj_getVert_succ _ _ <;> omega
 
+@[simp]
+lemma snd_reverse {p : G.Walk u v} : p.reverse.snd = p.penultimate := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:873]:
```suggestion
lemma snd_reverse (p : G.Walk u v) : p.reverse.snd = p.penultimate := by
```
Same below

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 13]
```diff
@@ -566,6 +571,10 @@ theorem _root_.SimpleGraph.toSubgraph.isSpanning (H : SimpleGraph V) (h : H ≤
 theorem spanningCoe_le_of_le {H H' : Subgraph G} (h : H ≤ H') : H.spanningCoe ≤ H'.spanningCoe :=
   h.2
 
+@[simp]
+lemma sup_spanningCoe (H H' : Subgraph G) :
+  (H ⊔ H').spanningCoe = H.spanningCoe ⊔ H'.spanningCoe := by rfl
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:576]:
```suggestion
    (H ⊔ H').spanningCoe = H.spanningCoe ⊔ H'.spanningCoe := rfl
```

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 14]
```diff
@@ -174,6 +174,11 @@ theorem spanningCoe_inj : G₁.spanningCoe = G₂.spanningCoe ↔ G₁.Adj = G
 lemma mem_of_adj_spanningCoe {v w : V} {s : Set V} (G : SimpleGraph s)
     (hadj : G.spanningCoe.Adj v w) : v ∈ s := by aesop
 
+lemma subgraphOfAdj_spanningCoe {v w : V} (hadj : G.Adj v w) :
+    (G.subgraphOfAdj hadj).spanningCoe = fromEdgeSet {s(v, w)} := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:178]:
```suggestion
lemma spanningCoe_subgraphOfAdj {v w : V} (hadj : G.Adj v w) :
    (G.subgraphOfAdj hadj).spanningCoe = fromEdgeSet {s(v, w)} := by
```

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 15]
```diff
@@ -764,6 +773,21 @@ theorem degree_eq_one_iff_unique_adj {G' : Subgraph G} {v : V} [Fintype (G'.neig
   rw [← finset_card_neighborSet_eq_degree, Finset.card_eq_one, Finset.singleton_iff_unique_mem]
   simp only [Set.mem_toFinset, mem_neighborSet]
 
+lemma adj_iff_of_neighborSet_equiv {v : V} [DecidableEq V] {H : Subgraph G}
+  (h : G.neighborSet v ≃ H.neighborSet v) (hfin : Fintype (G.neighborSet v)) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:777]:
```suggestion
    (h : G.neighborSet v ≃ H.neighborSet v) (hfin : Fintype (G.neighborSet v)) :
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean (hunk 5 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean]: Fixed this by removing the entire hypothesis, since it's implied by connected:)

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 16]
```diff
@@ -103,6 +103,18 @@ protected lemma Connected.sup {H K : G.Subgraph}
   rintro ⟨v, (hv|hv)⟩
   · exact Reachable.map (Subgraph.inclusion (le_sup_left : H ≤ H ⊔ K)) (hH ⟨u, hu⟩ ⟨v, hv⟩)
   · exact Reachable.map (Subgraph.inclusion (le_sup_right : K ≤ H ⊔ K)) (hK ⟨u, hu'⟩ ⟨v, hv⟩)
+
+lemma Connected.exists_connectedComponent_eq {H : Subgraph G}
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:107]:
```suggestion
lemma Connected.exists_verts_eq_connectedComponentSupp {H : Subgraph G}
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 17]
```diff
@@ -103,6 +103,18 @@ protected lemma Connected.sup {H K : G.Subgraph}
...
+    (hc : H.Connected) (h : ∀ v ∈ H.verts, ∀ w, H.Adj v w ↔ G.Adj v w) :
+    ∃ c : G.ConnectedComponent, H.verts = c.supp := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:109]: Can't you get away with a much weaker assumption than `h`? Something like
```suggestion
    (hc : H.Connected) (h : G ≤ H.spanningCoe) :
    ∃ c : G.ConnectedComponent, H.verts = c.supp := by
```

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 18]
```diff
@@ -174,6 +174,11 @@ theorem spanningCoe_inj : G₁.spanningCoe = G₂.spanningCoe ↔ G₁.Adj = G
 lemma mem_of_adj_spanningCoe {v w : V} {s : Set V} (G : SimpleGraph s)
     (hadj : G.spanningCoe.Adj v w) : v ∈ s := by aesop
 
+lemma spanningCoe_subgraphOfAdj {v w : V} (hadj : G.Adj v w) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:177]: Could be simp, no?

Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:178]: Fixed:)

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean (hunk 17 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean]: I changed this to be an implication, rather than an iff. Your suggestion implices that `H = ⊤`, so I don't think that's weaker. I can't see a more compact way to write this down due to the asymmetry between v being in H.verts and w not necessarily being, I also added a comment to stress this part:)

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean]: Oh, right!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 19]
```diff
@@ -238,6 +250,71 @@ theorem toSubgraph_adj_iff {u v u' v'} (w : G.Walk u v) :
...
+namespace IsPath
+
+lemma neighborSet_toSubgraph_startpoint {u v} {p : G.Walk u v}
+    (hp : p.IsPath) (hnp : ¬ p.Nil) : p.toSubgraph.neighborSet u = {p.snd} := by
+  have hadj1 := p.toSubgraph_adj_snd hnp
+  ext v
+  simp_all only [Subgraph.mem_neighborSet, Set.mem_insert_iff, Set.mem_singleton_iff,
+    SimpleGraph.Walk.toSubgraph_adj_iff, Sym2.eq, Sym2.rel_iff', Prod.mk.injEq, Prod.swap_prod_mk]
+  refine ⟨?_, by aesop⟩
+  rintro ⟨i, (hl | hr)⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:262]:
```suggestion
  rintro ⟨i, hl | hr⟩
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 20]
```diff
@@ -238,6 +250,71 @@ theorem toSubgraph_adj_iff {u v u' v'} (w : G.Walk u v) :
...
+  · have : i + 1 = 0 := by
+      apply hp.getVert_injOn (by rw [Set.mem_setOf]; omega) (by rw [Set.mem_setOf]; omega)
+      aesop
+    contradiction
+
+lemma neighborSet_toSubgraph_endpoint {u v} {p : G.Walk u v}
+    (hp : p.IsPath) (hnp : ¬ p.Nil) : p.toSubgraph.neighborSet v = {p.penultimate} := by
+  simpa using (IsPath.neighborSet_toSubgraph_startpoint (p.isPath_reverse_iff.mpr hp)
+      (by rw [@Walk.not_nil_iff_lt_length, Walk.length_reverse]; exact
+        Walk.not_nil_iff_lt_length.mp hnp))
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:276]:
```suggestion
  simpa using IsPath.neighborSet_toSubgraph_startpoint hp.reverse
      (by rw [Walk.not_nil_iff_lt_length, Walk.length_reverse]; exact
        Walk.not_nil_iff_lt_length.mp hnp)
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 21]
```diff
@@ -238,6 +250,71 @@ theorem toSubgraph_adj_iff {u v u' v'} (w : G.Walk u v) :
...
+    (p.toSubgraph.neighborSet (p.getVert i)).ncard = 2 := by
+  rw [hp.neighborSet_toSubgraph_internal h h']
+  have : p.getVert (i - 1) ≠ p.getVert (i + 1) := by
+    intro h
+    have := hp.getVert_injOn (by rw [Set.mem_setOf_eq]; omega) (by rw [Set.mem_setOf_eq]; omega) h
+    omega
+  simp_all
+
+lemma toSubgraph_adj_sndOfNotNil {u v v'} {p : G.Walk u v} (hp : p.IsPath)
+    (hadj : p.toSubgraph.Adj u v') : p.snd = v' := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:303]:
```suggestion
lemma snd_of_toSubgraph_adj {u v v'} {p : G.Walk u v} (hp : p.IsPath)
    (hadj : p.toSubgraph.Adj u v') : p.snd = v' := by
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 22]
```diff
@@ -356,6 +367,101 @@ lemma Subgraph.IsPerfectMatching.symmDiff_spanningCoe_IsCycles
     use w, w'
     aesop
 
+lemma IsCycles.snd_of_support_of_path_of_adj [Fintype V] [DecidableEq V] {v w w' : V}
+    (hcyc : G.IsCycles) (p : G.Walk v w) (hw : w ≠ w') (hw' : w' ∈ p.support) (hp : p.IsPath)
+    (hadj : G.Adj v w') : p.snd = w' := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:372]:
```suggestion
lemma IsCycles.snd_of_mem_support_of_isPath_of_adj [Fintype V] [DecidableEq V] {v w w' : V}
    (hcyc : G.IsCycles) (p : G.Walk v w) (hw : w ≠ w') (hw' : w' ∈ p.support) (hp : p.IsPath)
    (hadj : G.Adj v w') : p.snd = w' := by
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 23]
```diff
@@ -356,6 +367,101 @@ lemma Subgraph.IsPerfectMatching.symmDiff_spanningCoe_IsCycles
...
+  use (((hcyc.reachable_sdiff_toSubgraph_spanningCoe
+    (p.cons hw'2.symm) hp'p).some).mapLe hle).append this.toWalk
+termination_by Fintype.card V + 1 - p.length
+decreasing_by
+  simp_wf
+  have := Walk.IsPath.length_lt hp
+  omega
+
+lemma IsCycles.reachable_deleteEdge [Fintype V] [DecidableEq V] (hadj : G.Adj v w)
+    (hcyc : G.IsCycles) : (G \ SimpleGraph.fromEdgeSet {s(v, w)}).Reachable v w := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:428]:
```suggestion
lemma IsCycles.reachable_deleteEdges [Fintype V] [DecidableEq V] (hadj : G.Adj v w)
    (hcyc : G.IsCycles) : (G.deleteEdges {s(v, w)}).Reachable v w := by
```
This would justify the name

File: Mathlib/Combinatorics/SimpleGraph/Path.lean [hunk 24]
```diff
@@ -802,6 +805,21 @@ theorem Iso.symm_apply_reachable {G : SimpleGraph V} {G' : SimpleGraph V'} {φ :
     {v : V'} : G.Reachable (φ.symm v) u ↔ G'.Reachable v (φ u) := by
   rw [← Iso.reachable_iff, RelIso.apply_symm_apply]
 
+lemma Reachable.mem_verts_subgraph {u v} {H : G.Subgraph} (hr : G.Reachable u v)
+    (h : ∀ v ∈ H.verts, ∀ (w : V), G.Adj v w → H.Adj v w)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Path.lean:809]:
```suggestion
    (h : ∀ v ∈ H.verts, ∀ w, G.Adj v w → H.Adj v w)
```

File: Mathlib/Combinatorics/SimpleGraph/Path.lean [hunk 25]
```diff
@@ -802,6 +805,21 @@ theorem Iso.symm_apply_reachable {G : SimpleGraph V} {G' : SimpleGraph V'} {φ :
     {v : V'} : G.Reachable (φ.symm v) u ↔ G'.Reachable v (φ u) := by
   rw [← Iso.reachable_iff, RelIso.apply_symm_apply]
 
+lemma Reachable.mem_verts_subgraph {u v} {H : G.Subgraph} (hr : G.Reachable u v)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Path.lean:808]:
```suggestion
lemma Reachable.mem_subgraphVerts {u v} {H : G.Subgraph} (hr : G.Reachable u v)
```

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 26]
```diff
@@ -764,6 +774,21 @@ theorem degree_eq_one_iff_unique_adj {G' : Subgraph G} {v : V} [Fintype (G'.neig
   rw [← finset_card_neighborSet_eq_degree, Finset.card_eq_one, Finset.singleton_iff_unique_mem]
   simp only [Set.mem_toFinset, mem_neighborSet]
 
+lemma adj_iff_of_neighborSet_equiv {v : V} [DecidableEq V] {H : Subgraph G}
+    (h : G.neighborSet v ≃ H.neighborSet v) (hfin : Fintype (G.neighborSet v)) :
+  ∀ w, H.Adj v w ↔ G.Adj v w := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:779]:
```suggestion
    ∀ {w}, H.Adj v w ↔ G.Adj v w := by
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 27]
```diff
@@ -356,6 +367,102 @@ lemma Subgraph.IsPerfectMatching.symmDiff_spanningCoe_IsCycles
...
+    (hcyc : G.IsCycles) : (G.deleteEdges {s(v, w)}).Reachable v w := by
+  have : fromEdgeSet {s(v, w)} = hadj.toWalk.toSubgraph.spanningCoe := by
+    simp only [Walk.toSubgraph, singletonSubgraph_le_iff, subgraphOfAdj_verts, Set.mem_insert_iff,
+      Set.mem_singleton_iff, or_true, sup_of_le_left]
+    exact (Subgraph.spanningCoe_subgraphOfAdj hadj).symm
+  rw [show G.deleteEdges {s(v, w)} = G \ fromEdgeSet {s(v, w)} from by rfl]
+  exact this ▸ (hcyc.reachable_sdiff_toSubgraph_spanningCoe hadj.toWalk
+    (Walk.IsPath.of_adj hadj)).symm
+
+lemma IsCycles.exists_cycle_toSubgraph_verts_eq_connectedComponent_supp [Fintype V] [DecidableEq V]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:437]:
```suggestion
lemma IsCycles.exists_cycle_toSubgraph_verts_eq_connectedComponentSupp [Fintype V] [DecidableEq V]
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 28]
```diff
@@ -339,6 +340,17 @@ lemma IsCycles.other_adj_of_adj (h : G.IsCycles) (hadj : G.Adj v w) :
   obtain ⟨w', hww'⟩ := (G.neighborSet v).exists_ne_of_one_lt_ncard (by omega) w
   exact ⟨w', ⟨hww'.2.symm, hww'.1⟩⟩
 
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:343]:
```suggestion
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 29]
```diff
@@ -348,6 +360,7 @@ lemma IsCycles.induce_supp (c : G.ConnectedComponent) (h : G.IsCycles) :
   ext w'
   simp only [mem_neighborSet, c.adj_spanningCoe_induce_supp, hw, true_and]
 
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:363]:
```suggestion
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 30]
```diff
@@ -365,6 +376,102 @@ lemma Subgraph.IsPerfectMatching.symmDiff_isCycles
...
+  have hvp : v ∈ p.support := SimpleGraph.Walk.fst_mem_support_of_mem_edges _ hp.2
+  have : p.toSubgraph.verts = c.supp := by
+    obtain ⟨c', hc'⟩ := p.toSubgraph_connected.exists_verts_eq_connectedComponentSupp (by
+      intro v hv w hadj
+      refine (Subgraph.adj_iff_of_neighborSet_equiv ?_ (Set.toFinite _).fintype).mpr hadj
+      have : (G.neighborSet v).Nonempty := by
+        rw [Walk.mem_verts_toSubgraph] at hv
+        exact (Set.nonempty_of_ncard_ne_zero
+          (by rw [hp.1.ncard_neighborSet_toSubgraph_eq_two hv]; omega)).mono
+            (p.toSubgraph.neighborSet_subset v)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean:462]:
```suggestion
        refine (Set.nonempty_of_ncard_ne_zero ?_).mono (p.toSubgraph.neighborSet_subset v)
        rw [hp.1.ncard_neighborSet_toSubgraph_eq_two hv]
        omega
```
maybe?

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 31]
```diff
@@ -103,6 +103,22 @@ protected lemma Connected.sup {H K : G.Subgraph}
   rintro ⟨v, (hv|hv)⟩
   · exact Reachable.map (Subgraph.inclusion (le_sup_left : H ≤ H ⊔ K)) (hH ⟨u, hu⟩ ⟨v, hv⟩)
   · exact Reachable.map (Subgraph.inclusion (le_sup_right : K ≤ H ⊔ K)) (hK ⟨u, hu'⟩ ⟨v, hv⟩)
+
+/--
+  This lemma establishes a condition under which a subgraph is the same as a connected component.
+  Note the asymmetry in the hypothesis `h`: `v` is in `H.verts`, but `w` is not required to be.
+-/
+lemma Connected.exists_verts_eq_connectedComponentSupp {H : Subgraph G}
+    (hc : H.Connected) (h : ∀ v ∈ H.verts, ∀ w, G.Adj v w → H.Adj v w) :
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:112]: No action required for now but I think worth considering naming this property of `Subgraph`s + building a little API in future work.

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 32]
```diff
@@ -238,6 +254,71 @@ theorem toSubgraph_adj_iff {u v u' v'} (w : G.Walk u v) :
...
+    contradiction
+
+lemma neighborSet_toSubgraph_endpoint {u v} {p : G.Walk u v}
+    (hp : p.IsPath) (hnp : ¬ p.Nil) : p.toSubgraph.neighborSet v = {p.penultimate} := by
+  simpa using IsPath.neighborSet_toSubgraph_startpoint hp.reverse
+      (by rw [Walk.not_nil_iff_lt_length, Walk.length_reverse]; exact
+        Walk.not_nil_iff_lt_length.mp hnp)
+
+lemma neighborSet_toSubgraph_internal {u} {i : ℕ} {p : G.Walk u v} (hp : p.IsPath)
+    (h : i ≠ 0) (h' : i < p.length) :
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:283]: No action required but often a lemma which consumes a natural number together with a hypothesis that it is non-zero, is better stated in terms of its successor.

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 33]
```diff
@@ -764,6 +774,21 @@ theorem degree_eq_one_iff_unique_adj {G' : Subgraph G} {v : V} [Fintype (G'.neig
   rw [← finset_card_neighborSet_eq_degree, Finset.card_eq_one, Finset.singleton_iff_unique_mem]
   simp only [Set.mem_toFinset, mem_neighborSet]
 
+lemma adj_iff_of_neighborSet_equiv {v : V} [DecidableEq V] {H : Subgraph G}
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:777]:
```suggestion
lemma adj_iff_of_neighborSet_equiv {v : V} {H : Subgraph G}
```
and add `classical` to the proof

**Review by ocfnash — APPROVED** [review]
Thank you both; this is great!

Please feel free to merge after implementing my final suggestions.

bors d+

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 34]
```diff
@@ -365,6 +376,102 @@ lemma Subgraph.IsPerfectMatching.symmDiff_isCycles
...
+  · aesop
+  have e : G.neighborSet (p.getVert n) ≃ p.toSubgraph.neighborSet (p.getVert n) := by
+    refine @Classical.ofNonempty _ ?_
+    rw [← Cardinal.eq, ← Set.cast_ncard (Set.toFinite _), ← Set.cast_ncard (Set.toFinite _),
+        hp.ncard_neighborSet_toSubgraph_internal_eq_two (by omega) (by omega),
+        hcyc (Set.nonempty_of_mem hadj.symm)]
+  rw [Subgraph.adj_comm, Subgraph.adj_iff_of_neighborSet_equiv e (Set.toFinite _).fintype]
+  exact hadj.symm
+
+lemma IsCycles.reachable_sdiff_toSubgraph_spanningCoe [Fintype V] [DecidableEq V] {v w : V}
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Matching.lean:395]: and make the auxiliary one `private`!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean (hunk 32 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:283]: Really? `n` + `n \ne 0` is more syntactically general than `n + 1`. We've done the opposite change to what you're suggesting many times

Comment (ocfnash) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:283]: Yes, I'm aware. It just depends on the situation.

Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:283]: Kept it as-is for now, but I'll keep it in mind for the future/refactoring if the other option turns out to be more useful.
